US06933305B2
To a tetrahydrofuran (40 ml) solution of (S)-4-aminothiochromane-7-carboxylic acid methyl ester (4.50 g) was added an aqueous solution (20 ml) of potassium carbonate (3.35 g) at 0° C. To this mixed solution was added tetrahydrofuran solution (20 ml) of di-tert-butyldicarbonate (6.18 g) at the same temperature, and the mixture was stirred at room temperature for 4 hrs. Water (100 ml) was added to the reaction mixture and extracted with ethyl acetate. The obtained organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent in this solution was evaporated and recrystallized from ethyl acetate-hexane to give the objective (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid methyl ester (6.11 g) as colorless crystals.

reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | (S)-4-aminothiochromane-7-carboxylic acid methyl ester | 4.50 g | COC(=O)C1=CC=C2[C@H](CCSC2=C1)N | C11H13NO2S
reactant | potassium carbonate | 20 ml, 3.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | di-tert-butyldicarbonate | 6.18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Water | 100 ml | O | H2O
product | (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid methyl ester | 6.11 g | COC(=O)C1=CC=C2[C@H](CCSC2=C1)NC(=O)OC(C)(C)C | C16H21NO4S
